US05594006
(a) Preparation of D-leucic acid
While heating and stirring 100 ml of aqueous solution of 14 g of sodium nitrite at 90° C., 400 ml aqueous solution of 0.5N sulfuric acid of 25 g of D-leucine was added over 45 minutes. After dripping, the solution was stirred for 15 minutes until foams were no longer generated. The reaction solution was concentrated to 200 ml in vacuo, and the obtained residue was extracted with diethyl ether. The diethyl ether layer was washed one with 1N hydrochloric acid, and twice with saturated brine sequentially, and dried over sodium sulfate anhydride, and concentrated in vacuo. The obtained oily residue was left over, crystallized, and the captioned compound was obtained. Yield: 14.50 g.

reactant | sodium nitrite | 14 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | 0.5N | S(O)(O)(=O)=O | H2O4S
reactant | D-leucine | 25 g | N[C@H](CC(C)C)C(=O)O | C6H13NO2
product | D-leucic acid | C([C@H](O)CC(C)C)(=O)O | C6H12O3
